US07671080B2
3-Aminoisobutyric acid (1.00 g, 9.7 mmol) was stirred in DCM under nitrogen and thionyl chloride (1.4 ml, 19.4 mmol) was added at room temperature. The reaction was heated to 50° C. for 2 h. The solvent and any excess thionyl chloride were removed under reduced pressure and the oil obtained was dissolved in ethanol (20 ml) stirring at room temperature for 18 h. The solvent was removed under reduced pressure to give 3-aminoisobutyric acid ethyl ester hydrochloride as a viscous, cloudy oil (1.47 g, 90%).

reactant | 3-Aminoisobutyric acid | 9.7 mmol, 1.00 g | NCC(C(=O)O)C | C4H9NO2
reactant | thionyl chloride | 19.4 mmol, 1.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-aminoisobutyric acid ethyl ester hydrochloride | Cl.C(C)OC(C(CN)C)=O | InChI=1S/C6H13NO2.ClH/c1-3-9-6(8)5(2)4-7;/h5H,3-4,7H2,1-2H3;1H
